US05674891
1-(7-tert-Butyl-3,3-dimethyl-2,3-dihydrobenzo[b]furan-5-yl)-2-ethylthioethan-1-one.
Sodium thioethoxide (0.54 g, 6.4 mmol) is added in portions to a solution of 1 -(7-tert-butyl-3,3-dimethyl-2,3-dihydrobenzo[b]furan-5-yl)-2-chloroethan-1-one (1.12 g, 4.0 mmol) in 30 mL of methanol at room temperature. The reaction is stirred for 2.5 h, and concentrated in vacuo. The residue is dissolved in ether, washed with water and with brine, dried over anhydrous magnesium sulfate, and concentrated to give 1.12 g of the crude product. Purification by flash column chromatography on silica gel (5% ethyl acetate-hexane) afforded 0.72 g of the title compound as a light yellow oil.

reactant | Sodium thioethoxide | 6.4 mmol, 0.54 g | [S-]CC.[Na+]
reactant | 1 -(7-tert-butyl-3,3-dimethyl-2,3-dihydrobenzo[b]furan-5-yl)-2-chloroethan-1-one | 4.0 mmol, 1.12 g | C(C)(C)(C)C1=CC(=CC2=C1OCC2(C)C)C(CCl)=O | C16H21ClO2
solvent | methanol | 30 mL | CO | CH4O
product | 1-(7-tert-Butyl-3,3-dimethyl-2,3-dihydrobenzo[b]furan-5-yl)-2-ethylthioethan-1-one | 0.72 g | C(C)(C)(C)C1=CC(=CC2=C1OCC2(C)C)C(CSCC)=O | C18H26O2S
